US03957871
A mixture of 0.50 gram of N-formyl-α,α-dimethyl-4-(phenylethynyl)-benzylamine, 10.7 ml. of glacial acetic acid, 6.7 ml. of water, and 1.07 ml. of concentrated hydrochloric acid is stirred and refluxed for 2.5 hours. The solution is evaporated to dryness and α,α-dimethyl-4-(phenylethynyl)-benzylamine hydrochloride is obtained as a light tan solid. The product is recrystallized from an isopropyl alcohol-methanol-ether mixture to give pure α,α-dimethyl-4-(phenylethynyl)-benzylamine hydrochloride, m.p. 275°-278° (decomp.).

reactant | N-formyl-α,α-dimethyl-4-(phenylethynyl)-benzylamine | 0.50 gram | C(=O)NC(C1=CC=C(C=C1)C#CC1=CC=CC=C1)(C)C | C18H17NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α,α-dimethyl-4-(phenylethynyl)-benzylamine hydrochloride | Cl.CC(C1=CC=C(C=C1)C#CC1=CC=CC=C1)(C)N | InChI=1S/C17H17N.ClH/c1-17(2,18)16-12-10-15(11-13-16)9-8-14-6-4-3-5-7-14;/h3-7,10-13H,18H2,1-2H3;1H
